US07504401B2
To (2-amino-5-bromo-phenyl)-pyridin-3-yl-methanone (0.120 g, 0.43 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole (0.210 g, 0.52 mmol) in 1 mL of dioxane and 0.5 mL of DMF was added chloro(di-2-norbornylphosphino)(2′-dimethylamino-1,1′-biphenyl-2-yl)palladium (II) and 2M aqueous K3PO4 (0.5 mL, 1 mmol). The resulting reaction mixture was heated at 120° C. for 1 h. Ethyl acetate was then added to the reaction mixture and the organic phase was washed with water and brine, dried, filtered and concentrated. The crude product was purified by preparative TLC to afford [2-amino-5-(1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone. 1H NMR (400 MHz, CD3OD): δ 8.82 (s, 1H), 8.63 (d, J=4.9 Hz, 1H), 8.03 (d, J=7.8 Hz, 1H), 7.70 (d, J=8.4 Hz, 1H), 7.63 (d, J=2.1 Hz, 1H), 7.47 (dd, J=7.8, 5.0 Hz, 1H), 7.30 (d, J=8.0 Hz, 1H), 7.21 (d, J=3.2 Hz, 1H), 7.10 (t, J=7.7 Hz, 1H), 6.97-6.93 (m, 2H), 6.48 (d, J=3.3 Hz, 1H).

reactant | (2-amino-5-bromo-phenyl)-pyridin-3-yl-methanone | 0.43 mmol, 0.120 g | NC1=C(C=C(C=C1)Br)C(=O)C=1C=NC=CC1 | C12H9BrN2O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole | 0.52 mmol, 0.210 g | CC1(OB(OC1(C)C)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C | C23H38BNO2Si
reactant | K3PO4 | 1 mmol, 2M, 0.5 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | chloro(di-2-norbornylphosphino)(2′-dimethylamino-1,1′-biphenyl-2-yl)palladium (II) | Cl[Pd-](C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)P(C1C2CCC(C1)C2)C2C1CCC(C2)C1
product | [2-amino-5-(1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone | NC1=C(C=C(C=C1)C1=C2C=CNC2=CC=C1)C(=O)C=1C=NC=CC1 | C20H15N3O
